US04146643
(e) 3-[(1S,12bS)-1-ethyl-9-fluoro-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizin-1-yl]-2-methoxypropenoic acid methyl ester
The E and Z isomer mixture of (S)-1-ethyl-9-fluoro-1-(2-methoxy-2-methoxycarbonylvinyl)-2,3,4,6,7,12-hexahydro-1H-indolo[2,3-a]quinolizin-5-ium perchlorate is dissolved at 30° in 10 cc of methylene chloride/ethanol (80:20), and the solution is added to a prehydrogenated mixture of 982 mg of potassium acetate, 2 g of 10% Pd on charcoal and 8 cc of ethanol, as well as 2 cc of water. The mixture is then hydrogenated at room temperature and normal pressure, while stirring, until 8 millimols of hydrogen have been taken up and hydrogen consumption practically stops. After filtering through Hyflo, and washing with 20 cc of methylene chloride/ethanol (80:20), the filtrate is concentrated by evaporation at 30°/20 mm, the residue is dissolved in 20 cc of methylene chloride, mixed at 0° with 20 cc of 2 N ammonia and divided. The organic phase is separated, extracted with 10 cc of methylene chloride, the 1st and 2nd methylene chloride phases are washed with 20 cc of the same water, combined and dried with sodium sulphate. The reaction mixture is concentrated by evaporation at 30°/20 mm, pulverized, and dried in a high vacuum, whereby a mixture of the Z and E isomers of 3-[(1S,12bS)-1-ethyl-9-fluoro-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizin-1-yl]-2-methoxy-propenoic acid methyl ester is obtained in crude form as yellow-brown residue.

reactant | (S)-1-ethyl-9-fluoro-1-(2-methoxy-2-methoxycarbonylvinyl)-2,3,4,6,7,12-hexahydro-1H-indolo[2,3-a]quinolizin-5-ium perchlorate | Cl(=O)(=O)(=O)[O-].C(C)[C@]1(CCC[N+]=2CCC3=C(C12)NC1=CC=C(C=C13)F)C=C(C(=O)OC)OC
reactant | potassium acetate | 982 mg | C(C)(=O)[O-].[K+]
reactant | ethanol | 8 cc | C(C)O | C2H6O
reactant | hydrogen | 8 millimols | [H][H] | H2
solvent | methylene chloride ethanol | 10 cc | C(Cl)Cl.C(C)O
catalyst | Pd on charcoal | 2 g | [Pd] | Pd
solvent | water | 2 cc | O | H2O
product | 3-[(1S,12bS)-1-ethyl-9-fluoro-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizin-1-yl]-2-methoxypropenoic acid methyl ester | COC(C(=C[C@@]1(CCCN2CCC3=C([C@H]12)NC1=CC=C(C=C13)F)CC)OC)=O | C22H27FN2O3
